US08735436B2
Preparation of tert-butyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaen-1-yloxy)propanoate
An aqueous solution of sodium hydroxide (50% (w/w), 6 ml) was added portionwise to a mixture of (5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-ol (2.01 g, 6.39 mmol), tert-butyl-2-bromobutyrat (2.85 g, 12.8 mmol) and tetrabutylammonium bisulfate (0.65 g, 1.91 mmol) in toluene (12 ml). The reaction mixture was vigorously stirred under N2-atmosphere and warmed to 50° C. The reaction mixture was stirred at 50° C. for a total of 22 hrs. Additional tert-butyl-2-bromobutyrat (1.43 g, 6.39 mmol) and (1.44 g, 6.44 mmol) was added after 1½ hrs and 3 hrs respectively. The mixture was cooled and added ice-water (˜50 ml) and heptane (50 ml), the phases were separated and the organic phase was concentrated under reduced pressure. Flash chromatography on silica gel (30 g) eluting with heptane-heptane/EtOAc (99:1) yielded 2.12 g of the title compound as a liquid. 1H NMR (300 MHz, CDCl3) δ 0.94-1.04 (m, 6H), 1.47 (s, 9H), 1.68-1.85 (m, 4H), 1.93-2.20 (m, 4H), 2.80-2.86 (m, 10H), 3.28-3.36 (m, 1H), 3.55-3.63 (m, 2H), 5.27-5.43 (m, 12H)

reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | (5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-ol | 6.39 mmol, 2.01 g | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)O | C20H32O
reactant | tert-butyl-2-bromobutyrat | 12.8 mmol, 2.85 g | C(C)(C)(C)OC(C(CC)Br)=O | C8H15BrO2
reactant | tert-butyl-2-bromobutyrat | 6.39 mmol, 1.43 g | C(C)(C)(C)OC(C(CC)Br)=O | C8H15BrO2
reactant | heptane | 50 ml | CCCCCCC | C7H16
catalyst | tetrabutylammonium bisulfate | 1.91 mmol, 0.65 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaen-1-yloxy)propanoate | 2.12 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)OC(C)(C)C)C | C29H46O3
